US08030500B2
6-Bromo-3-difluoromethoxy-2,4-dimethyl-pyridine
A three-necked round bottom flask (500 mL) equipped with dry ice condenser (−78° C., acetone/dry ice) was charged with a solution of 6-bromo-2,4-dimethyl-3-hydroxypyridine (7.2 g, 35.6 mmol) in i-propanol (100 mL) and aqueous sodium hydroxide solution (20%, 100 mL) was added. The reaction mixture was stirred vigorously at 40° C. for 5 hours while chlorodifluoromethane was bubbled continuously into the solution at a moderate rate. The reaction mixture was then cooled to room temperature and extracted with Et2O (3×100 mL). The combined extracts were washed with water (2×50 mL), dried over magnesium sulfate and concentrated in vacuo. Purification of the crude mixture by flash column chromatography using 5% ethyl acetate in hexane afforded the title compound (5.4 g, 60%).

reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | 6-bromo-2,4-dimethyl-3-hydroxypyridine | 35.6 mmol, 7.2 g | BrC1=CC(=C(C(=N1)C)O)C | C7H8BrNO
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | i-propanol | 100 mL | C(C)(C)O | C3H8O
solvent | sodium hydroxide | 100 mL | [OH-].[Na+]
product | 6-Bromo-3-difluoromethoxy-2,4-dimethyl-pyridine | 5.4 g, 60% | BrC1=CC(=C(C(=N1)C)OC(F)F)C | C8H8BrF2NO
